US07531577B2
A mixture of N-(5-Aminomethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzenesulfonamide, 2-methylsulfanyl-3,5-dihydro-imidazol-4-one (prepared by the method reported by Chen et al., WO9736859) and sodium hydroxide in ethanol is heated to reflux, then concentrated under reduced pressure, diluted with ethyl acetate, and washed with aqueous sodium carbonate. The organic phase is dried (magnesium sulfate) and concentrated under reduced pressure to give N-{5-[(5-Oxo-4,5-dihydro-1H-imidazol-2-ylamino)-methyl]-naphthalen-2-yl}-benzenesulfonamide. 5-[(5-Oxo-4,5-dihydro-1H-imidazol-2-ylamino)-methyl]-naphthalene-2-sulfonic acid phenylamide may be similarly prepared.

reactant | N-(5-Aminomethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzenesulfonamide | NCC1C=2C=CC(=CC2CCC1)NS(=O)(=O)C1=CC=CC=C1 | C17H20N2O2S
reactant | 2-methylsulfanyl-3,5-dihydro-imidazol-4-one | CSC1=NCC(N1)=O | C4H6N2OS
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | N-{5-[(5-Oxo-4,5-dihydro-1H-imidazol-2-ylamino)-methyl]-naphthalen-2-yl}-benzenesulfonamide | O=C1CN=C(N1)NCC1=C2C=CC(=CC2=CC=C1)NS(=O)(=O)C1=CC=CC=C1 | C20H18N4O3S
